US07700609B2
2-(3-Sulfamoyl-phenylamino)-5,6-dihydro-thieno[2,3-h] quinazoline-8-carboxylic acid tert-butyl ester
5-Dimethylaminomethylene-4-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester (6.21 g, 20.20 mmol), 3-guanidinophenylsulphonamide hydrochloride (5.07 g, 20.20 mmol) and sodium hydroxide (0.81 g, 20.20 mmol) were suspended in isopropanol (250 mL) and stirred at reflux overnight. The reaction was allowed to cool to room temperature and diluted with water (˜200 mL). The resulting precipitate was isolated by filtration and the solid obtained was washed with water (1×100 mL), isopropanol (1×50 mL), diethyl ether (2×50 mL) and pentane (3×100 mL). Air drying gave an ochre powder (4.92 g, 53% yield). MS (ES+)459. δH (d6 DMSO) 1.5-1.6 (9H, s), 2.9-3.0 (2H, m), 3.1-3.2 (2H, m), 7.2-7.3 (2H, br s), 7.3-7.5 (2H, m), 7.7-7.8 (1H, m), 8.1 (1H, s), 8.4 (1H, s), 8.6 (1H, s), 9.9 (1H, s).

reactant | 5-Dimethylaminomethylene-4-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid tert-butyl ester | 20.20 mmol, 6.21 g | C(C)(C)(C)OC(=O)C1=CC2=C(S1)CCC(C2=O)=CN(C)C | C16H21NO3S
reactant | 3-guanidinophenylsulphonamide hydrochloride | 20.20 mmol, 5.07 g | Cl.N(C(=N)N)C=1C=C(C=CC1)S(=O)(=O)N
reactant | sodium hydroxide | 20.20 mmol, 0.81 g | [OH-].[Na+]
solvent | isopropanol | 250 mL | C(C)(C)O | C3H8O
solvent | water | ˜200 mL | O | H2O
product | 2-(3-Sulfamoyl-phenylamino)-5,6-dihydro-thieno[2,3-h] quinazoline-8-carboxylic acid tert-butyl ester | 4.92 g, 53% yield | C(C)(C)(C)OC(=O)C1=CC2=C(CCC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1 | C21H22N4O4S2
